US07399867B2
Dissolve 2-trifluoromethyl-benzenethiol (10 g; 56 mmol), potassium carbonate (25 g, 180 mmol), iodomethane (11 mL, 177 mmol) in DMF (100 mL). Stir for 12 hours. Filter the suspension through a pad of silica gel and elute with ethyl acetate (500 ne). Evaporate half of the solvent and wash the remaining solution with 10% aqueous LiCl (100 mL). Dry with MgSO4 and evaporate solvent. Chromatograph the residue on a SiO2 column eluting with hexane to give 9.5 g of 1-methylsulfanyl-2-trifluoromethyl-benzene (88%).

reactant | 2-trifluoromethyl-benzenethiol | 56 mmol, 10 g | FC(C1=C(C=CC=C1)S)(F)F | C7H5F3S
reactant | potassium carbonate | 180 mmol, 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 177 mmol, 11 mL | IC | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-methylsulfanyl-2-trifluoromethyl-benzene | 9.5 g, 88% | CSC1=C(C=CC=C1)C(F)(F)F | C8H7F3S
